US07732446B1
2-[1-(tert-Butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester (22 mg, 0.045 mmol) in CH2Cl2 (1.0 mL) was added a 4.0 M HCl solution in dioxane (0.67 mL) at room temp. After the reaction mixture was stirred at room temperature for 4.5 h, the suspension was filtered. The yellow solid was dried in vacuo to give 2-(1-aminomethyl-6,8-dimethoxy-isoquinolin-4-ylamino)thiazole-4-carboxylic acid ethyl ester hydrochloride salt (14.0 mg; 73% yield). 1H-NMR (D2O): δ, 8.84 (d, 1H, J=6.3 Hz), 7.70 (s, 1H), 6.92 (s, 1H), 6.77 (s, 1H), 4.66 (s, 2H), 4.20 (q, 2H, J=7.1 Hz), 3.92 (s, 3H), 3.84 (s, 3H), 1.20 (t, 3H, J=7.3 Hz); MS: calculated for C18H21N4O4S (M−Cl) 389.0; found: 389.0.

reactant | 2-[1-(tert-Butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinolin-4-ylamino]thiazole-4-carboxylic acid ethyl ester | 0.045 mmol, 22 mg | C(C)OC(=O)C=1N=C(SC1)NC1=CN=C(C2=C(C=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C23H28N4O6S
reactant | HCl | 4.0 M | Cl | ClH
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.67 mL | O1CCOCC1 | C4H8O2
product | 2-(1-aminomethyl-6,8-dimethoxy-isoquinolin-4-ylamino)thiazole-4-carboxylic acid ethyl ester hydrochloride salt | 14.0 mg, 73% yield | Cl.C(C)OC(=O)C=1N=C(SC1)NC1=CN=C(C2=C(C=C(C=C12)OC)OC)CN | InChI=1S/C18H20N4O4S.ClH/c1-4-26-17(23)14-9-27-18(22-14)21-13-8-20-12(7-19)16-11(13)5-10(24-2)6-15(16)25-3;/h5-6,8-9H,4,7,19H2,1-3H3,(H,21,22);1H
